US08314097B2
To a mixture of 4-fluorophenylboronic acid (2.5 g, 13.4 mmol), 2-bromobenzyl alcohol (2.81 g, 20.1 mmol) and Pd(PPh3)4(0.25 g, 0.216 mmol) in DME (20 mL) is added an aqueous solution of Na2CO3 (11.5 mL, 2.7 M, 31 mmol). The mixture is heated to 115° C. in sealed vessel overnight. The reaction is allowed to cool to room temperature and is diluted with EtOAc and water. The aqueous layer is extracted further with EtOAc (2×). The combined organic layers are washed with water, saturated NH4Cl, brine and dried over Na2SO4. After concentration, the resulting residue is purified by flash chromatography (hexane/CH2Cl2) to give (4′-fluorobiphenyl-2-yl)-methanol as oil. (cas # 773871-75-3) 1H NMR (400 MHz, CDCl3) δ (ppm) 7.46-7.43 (m, 1H), 7.32-7.22 (m, 4H), 7.18-7.16 (m, 1H), 7.04-6.99 (m, 2H), 4.48 (d, J=5.5 Hz, 2H), 1.68 (br s, 1H).

reactant | 4-fluorophenylboronic acid | 13.4 mmol, 2.5 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-bromobenzyl alcohol | 20.1 mmol, 2.81 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | Na2CO3 | 31 mmol, 2.7 M, 11.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.216 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4′-fluorobiphenyl-2-yl)-methanol | FC1=CC=C(C=C1)C1=C(C=CC=C1)CO | C13H11FO
